US05024994
2-BENZYL-3-(1-NAPHTHYL)PROPIONYL CHLORIDE
A solution of 5.0 g (17.2 mmole) of 2-benzyl-3-(1-naphthyl)propionic acid (EP-186,977) in 30 ml SOCl2 was stirred overnight at room temperature. The mixture was stripped to 5.48 g of an oil which was used without further purification in the following reaction.

reactant | 2-benzyl-3-(1-naphthyl)propionic acid | 17.2 mmole, 5.0 g | C(C1=CC=CC=C1)C(C(=O)O)CC1=CC=CC2=CC=CC=C12 | C20H18O2
reactant | SOCl2 | 30 ml | O=S(Cl)Cl | Cl2OS
product | 2-BENZYL-3-(1-NAPHTHYL)PROPIONYL CHLORIDE | C(C1=CC=CC=C1)C(C(=O)Cl)CC1=CC=CC2=CC=CC=C12 | C20H17ClO
